US05409943
(b) N-[3-(2,6-Difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (0.75 g, 0.0035 mol), N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.18 g, 0.003 mol) and methanolic ammonia solution (40 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 0.5 g (44%), m.p. 146°-148 ° C.

reactant | N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.003 mol, 1.18 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H14ClF2N3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2,6-Difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine | FC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H15ClF2N4O
